US07582769B2
A mixture of (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester (0.13 g), carbonyl diimidazole (0.11 g) and 4-dimethylaminopyridine (4 mg) in tetrahydrofuran (10 mL) and tetrahydrofuran (10 mL) was stirred at room temperature for 2 h. Cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine was added and the reaction stirred overnight at room temperature. Purification by flash chromatography gave 80 mg {2-[3-cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester

reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | 0.13 g | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
reactant | carbonyl diimidazole | 0.11 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)COC1=CC=CC=C1 | C19H29NO
catalyst | 4-dimethylaminopyridine | 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {2-[3-cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | 80 mg | C(C)OC(CSC1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)COC1=CC=CC=C1)C1CCCCC1)=O | C27H37N3O4S2
